US07459448B2
2-Amino-9-iodo-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (200 mg, 0.568 mmol, 1.0 equiv), anhydrous K3PO4 powder (241 mg, 1.14 mmol, 2.0 equiv) and palladium bis-tri-t-butyl phosphine (58 mg, 0.1136 mmol, 20 mol %) were combined in a sealable vial with a magnetic stir bar under a nitrogen atmosphere (glove box). 3-Methoxyaniline (209 mg, 1.70 mmol, 3.0 equiv) was added, followed by 6 mL of anhydrqus N-methylpyrrolidinone. The vial was sealed with a silicone lined crimp cap and removed from the glove box. The vial was sonicated for 2 minutes and then heated to 90° C. (oil bath temperature) for 18 hours. The dark brown solution was diluted with 50 mL of water and the brown solids were collected by filtration and washed with water and then diethyl ether. Purification by silica gel chromatography (10% methanol, 85% dichloromethane, 5% formic acid) afforded an orange powder, which was recrystallized from methanol and diethyl ether to yield 120 mg (61%) of 2-amino-9-(3-methoxy-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-225) as a yellow-orange powder.

reactant | 2-Amino-9-iodo-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | 0.568 mmol, 200 mg, 1.0 equiv | NC=1N=CC2=C(C3=C(NC(C2)=O)C=C(C=C3)I)N1 | C12H9IN4O
reactant | K3PO4 | 1.14 mmol, 241 mg, 2.0 equiv | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 3-Methoxyaniline | 1.70 mmol, 209 mg, 3.0 equiv | COC=1C=C(N)C=CC1 | C7H9NO
solvent | N-methylpyrrolidinone | 6 mL | CN1C(CCC1)=O | C5H9NO
product | 2-amino-9-(3-methoxy-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | 120 mg, 61% | NC=1N=CC2=C(C3=C(NC(C2)=O)C=C(C=C3)NC3=CC(=CC=C3)OC)N1 | C19H17N5O2
